US05030727
9-methoxy-5H-thiazolo-(2,3-b)-quinazolin-5-one (compound 48)
16.6 g of 3-methoxyanthranilamide and 16.4 g of 2-bromothiazole were stirred for 7 hours at 150° C. After working up in the conventional manner there was obtained 20.2 g (87%) of the above compound; m.p. 230°-232° C.

reactant | 3-methoxyanthranilamide | 16.6 g | COC1=C(C(C(=O)N)=CC=C1)N | C8H10N2O2
reactant | 2-bromothiazole | 16.4 g | BrC=1SC=CN1 | C3H2BrNS
product | 9-methoxy-5H-thiazolo-(2,3-b)-quinazolin-5-one | 20.2 g, 87% | COC=1C=CC=C2C(N3C(=NC12)SC=C3)=O | C11H8N2O2S
